US04192800
A stirred mixture of 3-acetylamino-4-(2'-bromo-4',6'-dinitrophenylazo)-N,N-diethylaniline(4.8 parts), copper (I) iodide (2.0 parts), formaldoxime trimer (1.75 parts), 2,6-lutidine (2.15 parts), and nitrobenzene (150 parts) was heated to 95° C. for 10 hours when thin layer chromatography showed reaction to be complete. Isolation by the method of Example 1 gave 3-acetylamino-4-(2'-cyano-4',6'-dinitrophenylazo)-N,N-diethylaniline (infra red spectrum identical with that of authentic material). Similar results were obtained when the 2,6-lutidine was replaced by 2,4-lutidine (2.15 parts) and 2,4,6-collidine (2.4 parts).

reactant | 3-acetylamino-4-(2'-bromo-4',6'-dinitrophenylazo)-N,N-diethylaniline | C(C)(=O)NC=1C=C(N(CC)CC)C=CC1N=NC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])Br | C18H19BrN6O5
reactant | formaldoxime | C=NO | CH3NO
reactant | 2,6-lutidine | N1=C(C=CC=C1C)C | C7H9N
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | copper (I) iodide | [Cu]I
product | 3-acetylamino-4-(2'-cyano-4',6'-dinitrophenylazo)-N,N-diethylaniline | C(C)(=O)NC=1C=C(N(CC)CC)C=CC1N=NC1=C(C=C(C=C1[N+](=O)[O-])[N+](=O)[O-])C#N | C19H19N7O5
